US04556659
4.0 G of N2 -(4-methoxyphenyldiphenylmethyl)-9-(1,3-diacetoxy-2-propoxymethyl)guanine in 100 ml of methanol plus 20 ml of concentrated ammonium hydroxide was magnetically stirred at 22° C. for 16 hours then at 50° C. for 2.5 hours. An additional 10 ml of ammonium hydroxide were then added and the solution stirred another 2.5 hours at 50° C. Next, the solution was concentrated at reduced pressure and the residual solid recrystallized from methanol:ethyl acetate to give 3.5 g of N2 -(4-methoxyphenyldiphenylmethyl)-9-(1,3-dihydroxy-2-propoxymethyl)guanine, m.p. 148°-151° C.

reactant | N2 (4-methoxyphenyldiphenylmethyl)-9-(1,3-diacetoxy-2-propoxymethyl)guanine | N#N.COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1NC(C=2N=CN(C2N1)COC(COC(C)=O)COC(C)=O)=O
solvent | methanol | 100 ml | CO | CH4O
solvent | ammonium hydroxide | 20 ml | [OH-].[NH4+]
solvent | ammonium hydroxide | 10 ml | [OH-].[NH4+]
product | N2 (4-methoxyphenyldiphenylmethyl)-9-(1,3-dihydroxy-2-propoxymethyl)guanine | 3.5 g | N#N.COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1NC(C=2N=CN(C2N1)COC(CO)CO)=O | InChI=1S/C29H29N5O5.N2/c1-38-23-14-12-22(13-15-23)29(20-8-4-2-5-9-20,21-10-6-3-7-11-21)33-28-31-26-25(27(37)32-28)30-18-34(26)19-39-24(16-35)17-36;1-2/h2-15,18,24,35-36H,16-17,19H2,1H3,(H2,31,32,33,37);
